US07511066B2
C. 3-Amino-N-(4-chlorophenyl)pyridine-4-carboxamide
To 3-(N-tert-butoxycarbonylamino)-N-(4-chlorophenyl)-pyridine-4-carboxamide (552 mg, 1.59 mmol) was added trifluoroacetic acid (3 mL, 38.95 mmol). After stirring for 10 min, the reaction mixture was concentrated, diluted with CH2Cl2, washed with satd Na2CO3, dried (Na2SO4) and concentrated to give the title compound (367 mg, 93%) as a pale yellow solid.

reactant | 3-(N-tert-butoxycarbonylamino)-N-(4-chlorophenyl)-pyridine-4-carboxamide | 1.59 mmol, 552 mg | C(C)(C)(C)OC(=O)NC=1C=NC=CC1C(=O)NC1=CC=C(C=C1)Cl | C17H18ClN3O3
reactant | trifluoroacetic acid | 38.95 mmol, 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Amino-N-(4-chlorophenyl)pyridine-4-carboxamide | 367 mg, 93% | NC=1C=NC=CC1C(=O)NC1=CC=C(C=C1)Cl | C12H10ClN3O
